US09193693B2
Step 4. 3-(4-(4-Methoxyphenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid
A solution of methyl 3-(4-(4-methoxyphenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate (117.1 mg, 0.26 mmol, 1.00 equiv) and sodium hydroxide (51.6 mg, 1.29 mmol, 5.00 equiv) in methanol (15 mL) was placed in a 50-mL round bottom flask and stirred for 5 h at 50° C. in an oil bath. The solution was adjusted to a pH of 3-4 with 1N hydrochloric acid, and then concentrated under vacuum. The resulting solids were washed with methanol yielding 80 mg (70%) of 34444-methoxyphenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 3-(4-(4-methoxyphenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylate | 0.26 mmol, 117.1 mg, 1.00 equiv | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C27H26N4O3
reactant | sodium hydroxide | 1.29 mmol, 51.6 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 3-(4-(4-Methoxyphenyl)piperazin-1-yl)-2-phenylquinoxaline-6-carboxylic acid | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=CC=C1 | C26H24N4O3
